US07250433B2
To a solution of 1-cyano-spiro[2.4]heptane-1-carboxylic acid methyl ester (14.0 g, 78.1 mmol) in methanol (275 mL) was added CoCl2-6H2O (10.6 g, 44.6 mmol) to give a deep purple colored solution. Sodium borohydride (8.44 g, 223 mmol) was added portionwise over 10 minutes with caution to control the evolution of hydrogen and the exothermic reaction that ensued to give a black solution. The reaction mixture was stirred for 30 minutes under nitrogen after the addition was completed. The reaction was quenched carefully by the addition of 1N HCl (300 mL). A saturated potassium carbonate solution was added until pH=9. Di-tert-butyl dicarbonate (21.3 g, 97.6 mmol) in CH2Cl2 (250 mL) and was added and stirred for 2 hours. The layers were separated and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over sodium sulfate, filtered and evaporated. The residue was chromotographed on a wet-packed silica gel column (6.5×26 cm) using 90:10 hexanes/ethyl acetate as eluent. The appropriate fractions were combined and evaporated to give 16.6 g (75%) of 1-(tert-butoxycarbonylaminomethyl)-spiro[2.4]heptane-1-carboxylic acid methyl ester as a thick oil: 1H NMR (300 MHz, CDCl3) δ 0.95 (d, J=4.3 Hz, 1H), 1.44 (s, 9H), 1.45 (m, 2H), 1.60-1.75 (m, 6H), 1.90 (m, 1H), 3.30 (dd, J=6.0, 14.0 Hz, 1H), 3.47 (dd, J=6.0, 14.0 Hz, 1H), 3.70 (s, 3H), 5.16 (brs, 1H); MS (APCI) m/z 184 [M+H-100(Boc)]+.

reactant | 1-cyano-spiro[2.4]heptane-1-carboxylic acid methyl ester | 78.1 mmol, 14.0 g | COC(=O)C1(CC12CCCC2)C#N | C10H13NO2
reactant | Sodium borohydride | 223 mmol, 8.44 g | [BH4-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | Di-tert-butyl dicarbonate | 97.6 mmol, 21.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 275 mL | CO | CH4O
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 1-(tert-butoxycarbonylaminomethyl)-spiro[2.4]heptane-1-carboxylic acid methyl ester | 16.6 g, 75% | COC(=O)C1(CC12CCCC2)CNC(=O)OC(C)(C)C | C15H25NO4
